US05319100
(2) {1-(N-Dimethylaminocarbamoyl)-2-oxopyrrolidin-3-yl}phosphonium bromide
Substantially in the same manner as in Example 39 (2), 4.25 g (17 mmol) of the thus obtained 3-bromo-1-(N-dimethylaminocarbamoyl)pyrrolidin-2-one and 4.46 g (17 mmol) of triphenylphosphine were treated to give 8.31 g of the objective crude compound as waxy residue.

reactant | 3-bromo-1-(N-dimethylaminocarbamoyl)pyrrolidin-2-one | BrC1C(N(CC1)C(NN(C)C)=O)=O | C7H12BrN3O2
reactant | triphenylphosphine | 17 mmol, 4.46 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | {1-(N-Dimethylaminocarbamoyl)-2-oxopyrrolidin-3-yl}phosphonium bromide | 8.31 g | [Br-].CN(NC(=O)N1C(C(CC1)[PH3+])=O)C | InChI=1S/C7H14N3O2P.BrH/c1-9(2)8-7(12)10-4-3-5(13)6(10)11;/h5H,3-4,13H2,1-2H3,(H,8,12);1H
